US04965269
Preparation of 5-chloro-2-[[(3,4-dimethoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole
2-chloromethyl-3,4-dimethoxypyridine hydrochloride (896 mg, 0.004 mol) was dissolved in 25 ml MeOH and treated with NaOH (390 mg, 0.008 mol) dissolved in 1.5 ml H2O. 5-chloro-2-mercapto-1H-benzimidazole (812 mg, was added and the resulting mixture allowed to react for 2h at room temperature. The solvent was evaporated and the residue partitioned between 50 ml 2.5 % NaOH and 75 ml CH2Cl2. The aqueous layer was separated and extracted twice with 25 ml CH2Cl2. The organic layers were combined, washed with 25 ml H2O, dried over MgSO° and the solvent was evaporated.

reactant | 2-chloromethyl-3,4-dimethoxypyridine hydrochloride | 0.004 mol, 896 mg | Cl.ClCC1=NC=CC(=C1OC)OC
reactant | NaOH | 0.008 mol, 390 mg | [OH-].[Na+]
reactant | 5-chloro-2-mercapto-1H-benzimidazole | ClC1=CC2=C(NC(=N2)S)C=C1 | C7H5ClN2S
solvent | MeOH | 25 ml | CO | CH4O
solvent | H2O | 1.5 ml | O | H2O
product | 5-chloro-2-[[(3,4-dimethoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole | ClC1=CC2=C(NC(=N2)SCC2=NC=CC(=C2OC)OC)C=C1 | C15H14ClN3O2S
